US09278944B2
5-Bromo-6-chloronicotinic acid and N,O-dimethylhydroxyamine hydrochloride were treated in the similar manner to Reference Example 7(5), and then the resulting compound and methylmagnesium bromide were treated in the similar manner to Reference Example 7(6) to give 1-(5-bromo-6-chloropyridin-3-yl)ethanone [REx(113-1)] as a colorless powder.

reactant | 5-Bromo-6-chloronicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | N,O-dimethylhydroxyamine hydrochloride | Cl.CNOC
reactant | methylmagnesium bromide | C[Mg]Br
product | 1-(5-bromo-6-chloropyridin-3-yl)ethanone | BrC=1C=C(C=NC1Cl)C(C)=O | C7H5BrClNO
